US07700638B2
5Cyano-7-(3-fluorophenyl)-1-Phenylbenzimidazole
This was prepared from 5-cyano-7-iodo-1-phenylbenzimidazole (173 mg, 0.5 mmol), toluene (3.0 ml), tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol), 3-fluorophenylboronic acid (70 mg, 0.5 mmol), ethanol (3.0 ml) and potassium carbonate (138 mg, 1.0 mmol) in a similar manner to 7-(3-acetamidophenyl)-5-cyano-1-phenylbenzimidazole. Purification by a similar procedure afforded the title compound (67 mg, 43%) m/z, 314.0 (M+H)+.

reactant | 5-cyano-7-iodo-1-phenylbenzimidazole | 0.5 mmol, 173 mg | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C14H8IN3
reactant | 3-fluorophenylboronic acid | 0.5 mmol, 70 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-(3-acetamidophenyl)-5-cyano-1-phenylbenzimidazole | C(C)(=O)NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C#N | C22H16N4O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
solvent | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
product | 5Cyano-7-(3-fluorophenyl)-1-Phenylbenzimidazole | 67 mg, 43% | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC(=CC=C1)F | C20H12FN3
